US04372956
(a) o-tolylsulfonylaminoacetophenone (VI)
25 g of o-aminoacetophenone and 40 g of p-toluene sulfonyl chloride are together dissolved in 150 ml of pyridine and are left to stand at 50°-60° for one hour. The reaction mixture is then added to 1 liter of a stirred ice-water mixture and extracted with methylene chloride after half an hour.

reactant | o-aminoacetophenone | 25 g | NC1=C(C=CC=C1)C(C)=O | C8H9NO
reactant | p-toluene sulfonyl chloride | 40 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | o-tolylsulfonylaminoacetophenone | C1(=C(C=CC=C1)S(=O)(=O)NC1=C(C=CC=C1)C(C)=O)C | C15H15NO3S
